US07759518B2
Methyl 5-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)-1-methyl-1H-pyrrole-2-carboxylate
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with methyl 5-(chlorosulfonyl)-1-methyl-1H-pyrrole-2-carboxylate to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.37 (dd, J=1.8 & 10.5 Hz, 1H), 7.29 (m, 2H), 7.12-6.94 (m, 4H), 5.87 (dt, J=1.8, 8.4 & 17.4 Hz, 1H), 5.56 (br s, 1H), 3.65 (s, 3H), 3.75 (s, 3H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | methyl 5-(chlorosulfonyl)-1-methyl-1H-pyrrole-2-carboxylate | ClS(=O)(=O)C1=CC=C(N1C)C(=O)OC | C7H8ClNO4S
product | Methyl 5-(N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)sulfamoyl)-1-methyl-1H-pyrrole-2-carboxylate | FC=1C(=C(C=CC1F)NS(=O)(=O)C1=CC=C(N1C)C(=O)OC)NC1=C(C=C(C=C1)I)F | C19H15F3IN3O4S
